reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:4][H:14])([H:8])([H:9])[H:10].[C:2](=[C:3]([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12],114.80691529767401
[C:1]([O:2][C:3](=[C:4]([H:11])[H:12])[C:5](=[O:6])[H:14])([H:7])([H:8])[H:9].[H:10][H:13]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],82.7287371866512
[C:1]([C:2]([C@@:3]1([H:13])[C:6]([H:17])([H:19])[O:7]1)([H:11])[H:12])([H:8])([H:9])[H:10].[C:4](=[C:5]([H:16])[H:18])([H:14])[H:15]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],60.0662169977568
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[C-:6]#[O+:7].[N:1]([C-:2]=[O+:3][C:4](=[O:5])[H:9])([H:8])[H:10],53.2621334784751
[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:6](=[O:7])[H:13])([H:8])([H:9])[H:10].[C:3](=[N:4][H:11])=[N:5][H:12],64.6939417509709
[O+:1]#[C:2][C:3]([O-:4])=[C:5]([O:6][H:7])[H:8]>>[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7],10.744192222644507
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C@@:4]([C:6]([H:14])([H:15])[H:16])([H:10])[O:5]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9],59.0650908054278
[C:2]1([H:8])=[C:3]([H:10])[C:4]1([C:5]#[C:6][H:12])[H:11].[O:1]([H:7])[H:9]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7],44.8417016170431
[C:1]([O:2][C:3]([C:4](=[O:5])[O:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[O:2][C:3]([H:11])([H:12])[C:4]1([O:5][H:9])[O:6][C:7]([H:13])([H:14])[H:15],87.9649105078113
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([N+:6]#[C-:5])[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7],39.3995688399246
[C:1]([N:6]=[C:5]=[C:4]([H:12])[H:13])([H:7])([H:8])[H:9].[O:2]=[C:3]([H:10])[H:11]>>[C:1]([O:2][C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],63.64737795431661
[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[H:14])([C:6](=[O:7])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],72.81997210545079
[C:1](=[O:2])([H:8])[H:10].[C:3]1([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]([H:9])=[N:7]1>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10],41.05144564041569
[C:1]([C:2]([C:3]([C:4]([C:6]#[C:7][H:17])([H:13])[H:14])=[O:5])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][H:16]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10],92.5547403543753
[C:1](=[C:2]([O:3][H:7])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],52.524892426776695
[C:1]1([H:7])([H:9])[C@@:2]([C:5](=[O:6])[H:12])([H:10])[C@@:3]1([O:4][H:8])[H:11]>>[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],75.2531919295751
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])/[C:4](=[C:5](/[O:6][H:14])[H:15])[H:13])([H:7])([H:8])[H:9],65.3835245272749
[N:1](=[C:2](\[C-:3]([N+:4]#[N:5])[H:9])[O:6][H:7])\[H:8]>>[N:1]([C:2]([C:3](=[N+:4]=[N-:5])[H:9])=[O:6])([H:7])[H:8],28.325977001021002
[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C-:2]([N+:3]1=[C:7]([H:15])[N:6]=[C:5]([H:14])[C:4]1([H:11])[H:13])[H:12])([H:8])([H:9])[H:10],102.021462352869
[C:1]([O:2][C:3]#[C:5][C:6](=[O:4])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9],61.20060003586431
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10].[N:4](=[C:5](/[O:6][H:12])[C:7]([H:16])([H:17])[H:18])\[H:15],62.283674758239094
[C-:3]([C:4]([H:13])([H:14])[H:15])=[C:5]=[C+:6][H:16].[C:1]([C:2]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[C:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],9.254751759484236
[O:1]([C:2]1=[N:6][C:5]([H:8])([H:9])[N:4]=[N:3]1)[H:7]>>[O:1]([c:2]1[n:3][n:4]([H:8])[c:5]([H:9])[n:6]1)[H:7],24.921018766193303
[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@:2]12[N:3]([H:10])[O:6][C@@:5]1([H:11])[O:4]2)([H:7])([H:8])[H:9],119.64353350731199
[C:1]([C:2]([O:3][C:5]1=[N:6][C:4]1([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],69.9763020645822
